US07135475B2
Step 4: Preparation of {4-[3-Butyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-urea.
8-(4-Amino-benzyl)-3-butyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione (25 mg, 0.06 mmol) was dissolved in 95:5 dichloromethane/N,N-dimethylformamide (2 mL), and treated with trimethylsilyl isocyanate (Aldrich) (47 μl, 0.3 mmol). The reaction was stirred at room temperature for 18 h. The reaction was then concentrated under reduced pressure and the residue was purified by reverse phase HPLC to afford the desired product. LCMS, m/z(M+H)=464.98.

reactant | 8-(4-Amino-benzyl)-3-butyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione | 0.06 mmol, 25 mg | NC1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CCCC)C=C1 | C23H24FN5O2
reactant | trimethylsilyl isocyanate | 0.3 mmol, 47 μl | C[Si](C)(C)N=C=O | C4H9NOSi
solvent | dichloromethane N,N-dimethylformamide | 2 mL | ClCCl.CN(C=O)C
product | {4-[3-Butyl-1-(2-fluorobenzyl)-2,6-dioxo-2,3,6,7-tetrahydro-1H-purin-8-ylmethyl]-phenyl}-urea | C(CCC)N1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)NC(=O)N)=O)CC1=C(C=CC=C1)F)=O | C24H25FN6O3
